US04977149
A mixture of (±)-trans-2-chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride (2.50 g, 8.3 mmol) and pyrrolidine hydrochloride (10 g) was heated to 210° C. to form a homogeneous molten semi-solid. After 45 minutes the molten semi-solid was poured into water, made basic with dilute NaOH solution, and extracted with methylene chloride. The extract was dried (Na2SO4) and concentrated to give the crude product as a brown solid. Purification by flash chromatography (10% methanol in methylene chloride, NH4OH) provided (±)-trans-2-pyrrolidino-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline (Rf =0.45, 1.32 g, 53% yield) as a brown oil.

reactant | (±)-trans-2-chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride | 8.3 mmol, 2.50 g | Cl.ClC=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1
reactant | pyrrolidine hydrochloride | 10 g | Cl.N1CCCC1
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | (±)-trans-2-pyrrolidino-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline | 1.32 g, 53% yield | N1(CCCC1)C=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C19H29N3
